US06579872B1
N-(5-benzamido-2-methylphenyl)-4-(chloromethyl)benzamide
Using an analogous procedure to that described in Example 37, 4-chloromethylbenzoyl chloride was reacted with N-(3-amino-4-methylphenyl)benzamide to give the title compound in 99% yield; NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 4.84 (s, 2H), 7.22 (d, 1H), 7.54 (m, 6H), 7.84 (s, 1H), 7.96 (m, 4H), 9.92 (s, 1H), 10.22 (s, 1H); Mass Spectrum: M−H− 377.

reactant | 4-chloromethylbenzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | N-(3-amino-4-methylphenyl)benzamide | NC=1C=C(C=CC1C)NC(C1=CC=CC=C1)=O | C14H14N2O
product | N-(5-benzamido-2-methylphenyl)-4-(chloromethyl)benzamide | 99% yield | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)NC(C1=CC=C(C=C1)CCl)=O)C | C22H19ClN2O2
